US04341718
α-Hydroxy-β-(2-Methylphenoxy)-N-(1-Methylethyl)Benzenepropanamide
This compound was prepared from N-(1-methylethyl)-3-phenyl-2-oxiranecarboxamide (8.2 g.) o-cresol (4.3 g.) sodium hydride (50% oil dispersion, 1.9 g.), 18-crown-6 (1.0 g.) and acetonitrile (250 ml.) as described in Example 12. The compound after recrystallization from ether melted at 123°-124°, and weighed 1.25 g.

reactant | N-(1-methylethyl)-3-phenyl-2-oxiranecarboxamide | 8.2 g | CC(C)NC(=O)C1OC1C1=CC=CC=C1 | C12H15NO2
reactant | o-cresol | 4.3 g | C1(=CC=CC=C1O)C | C7H8O
reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | 18-crown-6 | 1.0 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | α-Hydroxy-β-(2-Methylphenoxy)-N-(1-Methylethyl)Benzenepropanamide | OC(C(=O)NC(C)C)C(C1=CC=CC=C1)OC1=C(C=CC=C1)C | C19H23NO3
